US05338740
G. Trifluoromethanesulfonic acid 5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl ester
To a solution of 5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-ol (1130 mg, 3.58 mmol) in CH2Cl2 (8 mL) at -78° C. were added pyridine (316 mg, 0.32 mL, 4.0 mmol) and triflic anhydride (1128 mg, 0.673 mL, 4.0 mmol). The reaction mixture was stirred at -78° C. for 0.5 hour and at -30° C. for 1.5 hours, then was quenched with saturated aqueous NaHCO3 (5 mL). The aqueous solution was extracted with CHCl3 (50 mL) and the organic solution was dried (MgSO4) and concentrated in vacuo. 1H NMR (250 MHz, CDCl3): d 8.25 (d, 1 H), 8.10 (t, 2 H), 7.90 (d, 1 H), 7.76 (t, 1 H), 7.64 (dd, 1 H), 7.26 (m), 2.67 (t, 2 H), 1.75 (m, 2 H), 1.27 (m, 2 H), 0.83 (t, 3 H).

reactant | 5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-ol | 3.58 mmol, 1130 mg | C(CCC)C1=NC=2C(=NC=CC2)N1C1=C2C=CC(=CC2=CC=C1)O | C20H19N3O
reactant | pyridine | 4.0 mmol, 0.32 mL, 316 mg | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 4.0 mmol, 0.673 mL, 1128 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl ester | C(CCC)C1=NC=2C(=NC=CC2)N1C1=C2C=CC(=CC2=CC=C1)OS(=O)(=O)C(F)(F)F | C21H18F3N3O3S
